US07947683B2
(1S,5R)-3-{5-[5-(4-chlorophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]pentyl}-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane hydrochloride
The title compound was prepared in analogy to the method described in Example 14 in 19 mg yield as a white solid starting from 5-[5-(4-chlorophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]pentyl methanesulfonate (31 mg) and (1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane (21 mg ).

reactant | 5-[5-(4-chlorophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]pentyl methanesulfonate | 31 mg | CS(=O)(=O)OCCCCCC1=NN=C(N1C)C1=CC=C(C=C1)Cl | C15H20ClN3O3S
reactant | (1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane | 21 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
product | (1S,5R)-3-{5-[5-(4-chlorophenyl)-4-methyl-4H-1,2,4-triazol-3-yl]pentyl}-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane hydrochloride | Cl.ClC1=CC=C(C=C1)C=1N(C(=NN1)CCCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)C | InChI=1S/C26H28ClF3N4.ClH/c1-33-23(31-32-24(33)18-6-12-22(27)13-7-18)5-3-2-4-14-34-16-21-15-25(21,17-34)19-8-10-20(11-9-19)26(28,29)30;/h6-13,21H,2-5,14-17H2,1H3;1H/t21-,25+;/m0./s1
